US07321050B2
Experiment 18. 2-Ethyl-5-(2-phenylethenyl)-1,3-benzenediol (24B).
This material was synthesized from 1-(3,5-dimethoxy-4-ethylphenyl)-2-phenylethene and BBr3 in 91% yield by the same method as described in example 6.

reactant | 1-(3,5-dimethoxy-4-ethylphenyl)-2-phenylethene | COC=1C=C(C=C(C1CC)OC)C=CC1=CC=CC=C1 | C18H20O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
product | 2-Ethyl-5-(2-phenylethenyl)-1,3-benzenediol | 91% yield | C(C)C1=C(C=C(C=C1O)C=CC1=CC=CC=C1)O | C16H16O2
